US04574126
3-(4-Dimethylaminomethyl-2-pyridylmethylthio)propionitrile in a mixture of dry methanol and dry chloroform under nitrogen at 2° C. is treated with dried hydrogen chloride gas and allowed to stand at ca. 0° C. to give after basification with ice cold potassium carbonate solution methyl-3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionimidate which is reacted in methanol with sulphamide under reflux. Evaporation of the solvent at reduced pressure and purification of the product by chromatography yields N-sulphamoyl-3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionamidine.

reactant | 3-(4-Dimethylaminomethyl-2-pyridylmethylthio)propionitrile | CN(C)CC1=CC(=NC=C1)CSCCC#N | C12H17N3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen chloride | Cl | ClH
reactant | sulphamide | S(=O)(=O)(N)N | H4N2O2S
solvent | methanol | CO | CH4O
product | N-sulphamoyl-3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionamidine | S(N)(=O)(=O)NC(CCSCC1=NC=CC(=C1)CN(C)C)=N | C12H21N5O2S2
